US07652007B2
c) Methyl 3-allylamino-2-benzyloxycarbonylamino-2-methylpropionate
1.237 ml (16.5 mmol) of allylamine and 0.9 g (7.48 mmol) of MgSO4 are added to a solution of 0.874 g (3.3 mmol) of methyl 2-benzyloxycarbonylamino-2-methyl-3-oxopropionate in 15 ml of DCM. The mixture is stirred at room temperature overnight. The reaction mixture was then filtered and concentrated in vacuo. 50 ml of anhydrous MeOH, 6 ml of NaCNBH3 (1.0M in THF) and 1.8 ml of acetic acid are added to the crude product. This mixture is stirred at RT for 2 h. The reaction solution is concentrated in vacuo, and then EtOAc and water are added. The organic phase is separated off and dried over MgSO4, and the solvent is removed in vacuo. Purification takes place by chromatography (25 g of SiO2, eluent MeOH/DCM (gradient 0-10%). 1.035 g of the desired product are obtained as an oil. MW=306 (calculated, monoisotopic), measured value: (M+H)+307.

reactant | allylamine | 16.5 mmol, 1.237 ml | C(C=C)N | C3H7N
reactant | MgSO4 | 7.48 mmol, 0.9 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | methyl 2-benzyloxycarbonylamino-2-methyl-3-oxopropionate | 3.3 mmol, 0.874 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)(C=O)C | C13H15NO5
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-allylamino-2-benzyloxycarbonylamino-2-methylpropionate | 1.035 g | C(C=C)NCC(C(=O)OC)(C)NC(=O)OCC1=CC=CC=C1 | C16H22N2O4
